US05688795
A solution of 2-amino-N,N-dimethylbenzamide (3.6 g, 21.8 mmol) in 50 mL of pyridine was cooled to 0° C. and trifluoroacetic anhydride (4.0 mL, 29 mmol) was added dropwise. The mixture was aged at 4° C. for approximately 60 hours and then concentrated to dryness. The residue was partitioned between saturated sodium bicarbonate solution and ethyl acetate. The ethyl acetate layer was separated and dried to give to give 2-trifluoroacetylamino-N,N-dimethylbenzamide.

reactant | 2-amino-N,N-dimethylbenzamide | 21.8 mmol, 3.6 g | NC1=C(C(=O)N(C)C)C=CC=C1 | C9H12N2O
reactant | trifluoroacetic anhydride | 29 mmol, 4.0 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 2-trifluoroacetylamino-N,N-dimethylbenzamide | FC(C(=O)NC1=C(C(=O)N(C)C)C=CC=C1)(F)F | C11H11F3N2O2
